US04897393
A solution of 6.16 g of 2-amino-4-nitrophenol and 4.77 g of benzaldehyde in ethanol is refluxed. The reaction solution is condensed and cooled. The crystalline precipitates are collected by filtration to give 2-benzylideneamino-4-nitrophenol. 15.5 g of lead tetraacetate are added to a benzene suspension of the product obtained above, and the mixture is stirred. After the reaction, insoluble materials are filtered off. The filtrate is washed, and condensed. The residue is purified by silica gel column chromotography and recrystallized from ethanol, whereby 5.08 g of 5-nitro-2-phenylbenzoxazole are obtained.

reactant | 2-amino-4-nitrophenol | 6.16 g | NC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H6N2O3
reactant | benzaldehyde | 4.77 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | ethanol | C(C)O | C2H6O
product | 2-benzylideneamino-4-nitrophenol | C(C1=CC=CC=C1)=NC1=C(C=CC(=C1)[N+](=O)[O-])O | C13H10N2O3
